US08222248B2
To a solution of 2,6-dimethylaniline (1.21 g) in DMF (15 mL) was added 1,3-dioxo-1,3-dihydroisobenzofuran-5-carboxylic acid (1.92 g) and the mixture was stirred at room temperature for 18 h. The mixture was poured into water and the resulting precipitate was filtered, washed with water and dried under reduced pressure. The solid was suspended in HOAc (25 mL) and the mixture was heated at 110° C. for 4 h. The resulting solution was cooled and the solvent was removed under reduced pressure to give 2-(2,6-dimethylphenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid as an off-white solid, mp=210-213° C.; MS (m/z) 294 (M−1).

reactant | 2,6-dimethylaniline | 1.21 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | 1,3-dioxo-1,3-dihydroisobenzofuran-5-carboxylic acid | 1.92 g | O=C1OC(C2=CC(=CC=C12)C(=O)O)=O | C9H4O5
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-dimethylphenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | CC1=C(C(=CC=C1)C)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C17H13NO4
